US07541372B2
2-(4-Methanesulfonyl-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 4-(methanesulfonyl)-benzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=50:30:20 to 20:60:20, 36 mg, 10%) which was obtained as a white solid. MS: m/e=382.1 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 4-(methanesulfonyl)-benzoic acid | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
product | 2-(4-Methanesulfonyl-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 36 mg, 10% | CS(=O)(=O)C1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C19H15N3O4S
